US04036977
A solution of the free base from 2.82 g. of the N-methyl-4-(1-adamantyloxy)aniline hydrochloride in 20 ml. pyridine was treated dropwise with 1.64 ml. ClCO2C2H5. Following 18 hours standing in the cold the mixture was pured into ice: H2O. This was extracted with Et2O and the organic layer washed in turn with H2O, cold 2.5 N HCl, H2O NaHCO3 and brine. The extract was then taken to dryness to leave behind N-methyl, N-carbethoxy-4-(1-adamantyloxy)aniline as an oil.

reactant | N-methyl-4-(1-adamantyloxy)aniline hydrochloride | Cl.CNC1=CC=C(C=C1)OC12CC3CC(CC(C1)C3)C2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | ClCO2C2H5 | ClC(=O)OCC | C3H5ClO2
solvent | H2O | O | H2O
product | N-carbethoxy-4-(1-adamantyloxy)aniline | C(=O)(OCC)NC1=CC=C(C=C1)OC12CC3CC(CC(C1)C3)C2 | C19H25NO3
